US09388197B2
A.2.3.2. Synthesis of 2,4-dichloro-6-methoxybenzaldehyde oxime
A sol. of 2,4-dichloro-6-methoxybenzaldehyde (2.39 mmol) in 5 mL DMF was cooled to 0° C. and NaOAc (2.63 mmol) followed by hydroxylamine HCl (2.63 mmol) were added. The ice bath was removed and the reaction mixture was stirred at RT for 10 min. The mixture was diluted with EtOAc and washed once with water and brine. The comb. org. layers were dried over MgSO4 and conc. in vacuo to give the desired compound as white solid.

reactant | 2,4-dichloro-6-methoxybenzaldehyde | 2.39 mmol | ClC1=C(C=O)C(=CC(=C1)Cl)OC | C8H6Cl2O2
reactant | NaOAc | 2.63 mmol | CC(=O)[O-].[Na+]
reactant | hydroxylamine HCl | 2.63 mmol | Cl.NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2,4-dichloro-6-methoxybenzaldehyde oxime | ClC1=C(C=NO)C(=CC(=C1)Cl)OC | C8H7Cl2NO2
